US04072498
Following the procedure of Example 68, but substituting dimethylamine for aqueous ammonia and 4-methyl-3-phenyl-α-propylpyrazole-1-acetic acid for α,4-dimethyl-3-phenylpyrazole-1-acetic acid, there was obtained N,N,4-trimethyl-3-phenyl-α-propylpyrazole-1-acetamide having a melting point of 84°-86° C.

reactant | ammonia | N | H3N
reactant | 4-methyl-3-phenyl-α-propylpyrazole-1-acetic acid | CC=1C(=NN(C1)C(C(=O)O)CCC)C1=CC=CC=C1 | C15H18N2O2
reactant | α,4-dimethyl-3-phenylpyrazole-1-acetic acid | CC(C(=O)O)N1N=C(C(=C1)C)C1=CC=CC=C1 | C13H14N2O2
product | N,N,4-trimethyl-3-phenyl-α-propylpyrazole-1-acetamide | CN(C(C(N1N=C(C(=C1)C)C1=CC=CC=C1)CCC)=O)C | C17H23N3O
